US07625914B2
In a manner similar to that of Example 2(f), starting with 0.5 g (3 mmol) of (5-bromopyrid-3-ylmethyl)methylamine and 0.4 ml (3.6 mmol) of benzoyl chloride, 0.8 g (90%) of N-(5-bromopyrid-3-ylmethyl)-N-methylbenzamide is obtained.

reactant | (5-bromopyrid-3-ylmethyl)methylamine | 3 mmol, 0.5 g | BrC=1C=C(C=NC1)CNC | C7H9BrN2
reactant | benzoyl chloride | 3.6 mmol, 0.4 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-(5-bromopyrid-3-ylmethyl)-N-methylbenzamide | 0.8 g, 90% | BrC=1C=C(C=NC1)CN(C(C1=CC=CC=C1)=O)C | C14H13BrN2O
